US08293768B2
Synthesis of N-((1,5-dimethyl-1H-pyrrol-2-yl)methyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (1,5-dimethyl-1H-pyrrol-2-yl)methanamine, the title compound was obtained as a beige solid in 57% yield: 1H NMR (300 MHz, CDCl3) δ 7.30-7.23 (m, 2H), 7.07-6.98 (m, 2H), 6.08 (s, 1H), 6.00 (d, J=3.2 Hz, 1H), 5.81 (d, J=3.2 Hz, 1H), 5.67 (t, J=4.4 Hz, 1H), 4.53 (d, J=4.4 Hz, 2H), 4.42 (s, 2H), 3.83-3.74 (m, 2H), 3.49-3.39 (m, 5H), 2.48 (s, 3H), 2.21 (s, 3H); MS (ES+) m/z 463.1 (M+23).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (1,5-dimethyl-1H-pyrrol-2-yl)methanamine | CN1C(=CC=C1C)CN | C7H12N2
product | N-((1,5-dimethyl-1H-pyrrol-2-yl)methyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide | 57% yield | CN1C(=CC=C1C)CNC(=O)C=1SC(=CC1C)N1C(N(CC1)CC1=CC=C(C=C1)F)=O | C23H25FN4O2S
